US08748622B2
A reaction flask with stirrer was charged with 41.4 g of 4-chloro-N-methyl-pyridine-2-carboxamide hydrochloride and 100 g of toluene as solvent. After addition of 68.4 g of water and 19.6 g of an aqueous sodium hydroxide solution (45% w/w) the reaction mixture was stirred for 30 minutes. The two phases were separated and the aqueous layer was discarded. The organic layer was concentrated by distillation under vacuum and toluene was substituted by 1-methyl-2-pyrrolidinone (70 g) to yield a solution of 4-chloro-N-methyl-pyridine-2-carboxamide in 1-methyl-2-pyrrolidinone.

reactant | water | 68.4 g | O | H2O
reactant | sodium hydroxide | 19.6 g | [OH-].[Na+]
reactant | 4-chloro-N-methyl-pyridine-2-carboxamide hydrochloride | 41.4 g | Cl.ClC1=CC(=NC=C1)C(=O)NC
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-N-methyl-pyridine-2-carboxamide | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
